US04346161
J. t-Butyl 3-amino-2-(N-benzoylthiocarbamoyl)crotonate
A mixture of t-butyl 3-aminocrotonate (65.3 g, 0.4 mol), benzoyl isothiocyanate (62.9 g, 0.4 mol), and diethyl ether (300 ml) was stirred at ambient temperature for 3 hours. The solid product was collected on a filter, washed with ether and dried to give 56 g (43.7 percent yield) of material melting at 107° to 110° C.

reactant | t-butyl 3-aminocrotonate | 0.4 mol, 65.3 g | N\C(=C/C(=O)OC(C)(C)C)\C | C8H15NO2
reactant | benzoyl isothiocyanate | 0.4 mol, 62.9 g | C(C1=CC=CC=C1)(=O)N=C=S | C8H5NOS
solvent | diethyl ether | 300 ml | C(C)OCC | C4H10O
product | t-Butyl 3-amino-2-(N-benzoylthiocarbamoyl)crotonate | 56 g, 43.7 percent yield | N\C(=C(/C(=O)OC(C)(C)C)\C(NC(C1=CC=CC=C1)=O)=S)\C | C16H20N2O3S
